US05294734
29 g (0.14 mol) of 4-ethoxycarbonylmethoxybutyric acid chloride are dissolved in 290 ml of tetrahydrofuran and the solution is hydrogenated under normal pressure at 10°-15° C. by addition of 5.8 g of 5% Pd/C and 18 ml of 2,6-lutidine. Upon cessation of hydrogenation, the catalyst is removed by filtration and the filtrate is concentrated by evaporation. Distillation of the crude product gives 4-ethoxycarbonylmethoxybutanal as a clear colourless liquid of b.p. 72°-74° C./2.10-2 torr.

reactant | 4-ethoxycarbonylmethoxybutyric acid chloride | 0.14 mol, 29 g | C(C)OC(=O)COCCCC(=O)Cl | C8H13ClO4
reactant | 2,6-lutidine | 18 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 290 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 5.8 g | [Pd] | Pd
product | 4-ethoxycarbonylmethoxybutanal | C(C)OC(=O)COCCCC=O | C8H14O4
